US07476749B1
In a dry 3-necked round bottomed flask, containing a magnetic stirrer, equipped with a dropping funnel, a reflux condenser protected from moisture by a calcium chloride filled drying tube and a rubber septum. The dropping funnel is filled with 12.44 mL (175 mmol) of acetyl chloride and 35 mL of dry DCM. The flask is charged with 41.00 g (350 mmol) of Creatinol and 175 mL of dry DCM, and cooled with an ice-water bath to about 0° C., under a nitrogen atmosphere. The acetyl chloride solution is then added slowly with stirring, over a period of 15 minutes, to the Creatinol solution. The solution is stirred for another 10 minutes, after which 15.38 g (60 mmol) of Palmitic acid is added in one portion and the reaction is slowly heated to about 65° C. for about 10 hours. Then the solution is allowed to cool to room temperature, after which the solvent is removed under reduced pressure to yield the crude ester. The crude ester is then purified by flash chromatography (ethyl acetate/hexanes; 2/5) to yield pure 2-(1-methylguanidino)ethyl palmitate.

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | acetyl chloride | 175 mmol, 12.44 mL | C(C)(=O)Cl | C2H3ClO
reactant | Creatinol | 350 mmol, 41.00 g | CN(CCO)C(=N)N | C4H11N3O
reactant | Palmitic acid | 60 mmol, 15.38 g | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
solvent | DCM | 175 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-methylguanidino)ethyl palmitate | C(CCCCCCCCCCCCCCC)(=O)OCCN(C(=N)N)C | C20H41N3O2
